### PR TITLE
Add Erdős Problem 1009 (edge-disjoint triangles above the Turán threshold), link the formal proof

### LINKED ISSUE #1068: Erdős Problem 1009
### What is the conjecture

https://www.erdosproblems.com/1009

  Is it true that, for every $c>0$, there exists $f(c)$ such that every graph on $n$ vertices with at least $\lfloor n^2/4\rfloor+k$ edges, where $k<c n$, contains at least $k-f(c)$ many edge disjoint triangles?

Status:  solved

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1068.

### What changed
Adds `FormalConjectures/ErdosProblems/1009.lean`:
- `erdos_1009` (`research solved`, `answer(True)`): for every `c > 0` there is `f` such that every graph on `n` vertices with at least `⌊n²/4⌋ + k` edges, `k < cn`, has at least `k − f` edge-disjoint triangles (a `Finset` of `3`-cliques pairwise sharing at most one vertex). Proved by Győri [Gy88]. Linked to plby/lean-proofs `Erdos1009.erdos_1009` (Codex and GPT-5.6 Sol).
- `erdos_1009.variants.sauer` (`research solved`): Sauer's example showing `f(2) ≥ 1`.

### Why
Issue #1068 is up for grabs. plby's closure (8 files, shared with their 207/127 developments) is Mathlib-only and axiom-clean.

### How checked
- Rebuilt the closure against this repo's Mathlib: `#print axioms Erdos1009.erdos_1009` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's packing is a `Finset` of `{s : Finset (Fin n) // s.card = 3}` with the "two common vertices force equality" packing condition; mapping along `Subtype.val` gives the family used here):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

theorem erdos_1009_bridge : type_of% Erdos1009.erdos_1009 := by
  show True ↔ _
  simp only [true_iff]
  intro c hc
  obtain ⟨f, hf⟩ := Erdos1009Plby.erdos_1009 c hc
  refine ⟨f, fun n k G hE hk => ?_⟩
  obtain ⟨P, ⟨hpack, htri⟩, hcard⟩ := hf n k G hE hk
  classical
  refine ⟨P.map ⟨Subtype.val, Subtype.val_injective⟩, ?_, ?_, ?_⟩
  · intro t ht
    rw [Finset.mem_map] at ht
    obtain ⟨T, hT, rfl⟩ := ht
    refine ⟨?_, T.2⟩
    intro u hu v hv huv
    exact htri T hT hu hv huv
  · intro s hs t ht hst
    rw [Finset.mem_coe, Finset.mem_map] at hs ht
    obtain ⟨S, hS, rfl⟩ := hs
    obtain ⟨T, hT, rfl⟩ := ht
    by_contra h
    push Not at h
    obtain ⟨u, hu, v, hv, huv⟩ := Finset.one_lt_card.1 h
    rw [Finset.mem_inter] at hu hv
    apply hst
    have := hpack u v huv S hS hu.1 hv.1 T hT hu.2 hv.2
    rw [this]
  · rw [Finset.card_map]
    exact hcard
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1009»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1009.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1009.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
